US08445490B2
To a solution of 2-(4-(4-(4-(allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzamido)acetic acid (50 mg, 0.09 mmol) in DMF (2 mL) was added prop-2-ene-1-sulfonamide (17 mg, 0.14 mmol), HATU (71 mg, 0.19 mol) and iPr2NEt (66 uL, 0.38 mmol). The mixture was stirred at r.t. for 16 hours before all the solvents were removed under vacuum. All solvents were removed nuder vacuum and the residue was purified by silica gel column (MeOH/DCM=5% to 10%) to give 4-(4-(4-(allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)-N-(2-(allylsulfonamido)-2-oxoethyl)benzamide (53 mg, 89%) as a white solid.

reactant | 2-(4-(4-(4-(allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzamido)acetic acid | 0.09 mmol, 50 mg | C(C=C)OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)NCC(=O)O)C=C2)C=C1 | C24H23F3N6O5
reactant | prop-2-ene-1-sulfonamide | 0.14 mmol, 17 mg | C(C=C)S(=O)(=O)N | C3H7NO2S
reactant | HATU | 0.19 mol, 71 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.38 mmol, 66 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(4-(4-(allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)-N-(2-(allylsulfonamido)-2-oxoethyl)benzamide | 53 mg, 89% | C(C=C)OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)NCC(=O)NS(=O)(=O)CC=C)C=C2)C=C1 | C27H28F3N7O6S
